US04816454
6-(4-(2-(2-Oxo-pyrrolidin-1-yl)ethyl)-amino-carbonyl-amino-phenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone
7.2 g (0.02 mole) of 4-(4-(2-(2-oxo-pyrrolidin-1-yl)ethyl)-amino-carbonyl-amino-phenyl)-4-oxo-3-methyl-butyric acid and 1 ml (0.02 mole) of hydrazine hydrate are heated under reflux in 80 ml of ethanol and 10 ml of dimethylformamide for 2 hours. The crude product (6.3 g) which precipitates out on cooling is filtered off with suction and recrystallised from 90% strength ethanol.

reactant | 4-(4-(2-(2-oxo-pyrrolidin-1-yl)ethyl)-amino-carbonyl-amino-phenyl)-4-oxo-3-methyl-butyric acid | 0.02 mole, 7.2 g | O=C1N(CCC1)CCC1=C(C(=C(C=C1)C(C(CC(=O)O)C)=O)N)C(=O)N | C18H23N3O5
reactant | hydrazine hydrate | 0.02 mole, 1 ml | O.NN
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 6-(4-(2-(2-Oxo-pyrrolidin-1-yl)ethyl)-amino-carbonyl-amino-phenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone | O=C1N(CCC1)CCC1=C(C(=C(C=C1)C=1C(CC(NN1)=O)C)N)C(=O)N | C18H23N5O3
